US04279912
400 mg of ethyl 8-bromo-5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate were suspended in 200 ml of 50% aqueous ethanol and 4 ml of N sodium hydroxide solution were added. The mixture was heated on a steam bath for 1 hour and the resulting solution was filtered, then acidified with 4.4 ml of N hydrochloric acid. The mixture was cooled in ice to obtain cream needles of 8-bromo-5-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate melting at >300° C.

reactant | ethyl 8-bromo-5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate | 400 mg | BrC1=CC=C2C(=CC=3N(C2=C1)C=C(N3)C(=O)OCC)Cl | C14H10BrClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 8-bromo-5-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate | O.BrC1=CC=C2C(=CC=3N(C2=C1)C=C(N3)C(=O)O)Cl | InChI=1S/C12H6BrClN2O2.H2O/c13-6-1-2-7-8(14)4-11-15-9(12(17)18)5-16(11)10(7)3-6;/h1-5H,(H,17,18);1H2
